US04569934
2-Methyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine hydrobromide
A 1.5 g sample of 3-amino-6-[3-(trifluoromethyl)phenyl]pyridazine, 1.23 g of bromoacetone and 50 ml of ethanol was refluxed for 18 hours. The volatiles were removed in vacuo and the residue dissolved in dichloromethane. The solution was treated with activated carbon, filtered, and concentrated. The residue was crystallized from dichloromethane-hexane to give 1.0 g of the desired product as cream colored crystals, mp 219°-221° C.

reactant | 3-amino-6-[3-(trifluoromethyl)phenyl]pyridazine | NC=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H8F3N3
reactant | bromoacetone | 1.23 g | BrCC(C)=O | C3H5BrO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Methyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine hydrobromide | 1.0 g | Br.CC=1N=C2N(N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F)C1 | InChI=1S/C14H10F3N3.BrH/c1-9-8-20-13(18-9)6-5-12(19-20)10-3-2-4-11(7-10)14(15,16)17;/h2-8H,1H3;1H
